US07135467B2
N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-2-(4-hydroxy-1-piperidinyl)-1-methyl-6-oxo-4-pyrimidinecarboxamide
A solution of 4-fluorobenzylamine (156 mg, 1.25 mmol) and 5-hydroxy-1-methyl-6-oxo-2-[4-(2,2,2-trifluoroacetoxy)piperidin-1-yl]-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester (100 mg, 0.254 mmol) in dimethylformamide (3 mL) was heated at 120° C. for 2 h. Then, cooled and purified by preparative HPLC using MeOH/Water containg 0.1% TFA as an eluent. The fractions containing the product were combined and concentrated to afford title compound as a off-white solid (46 mg, 48%). 1H NMR (500 MHz, CDCl3) δ: 11.62 (s, 1H), 7.75 (br s, 1H), 7.31–7.28 (m, 2H), 7.04 (t, J=8.7 Hz, 2H), 4.56 (d, J=6.4 Hz, 2H), 3.95–3.89 (m, 1H), 3.52 (s, 3H), 3.28–3.23 (m, 2H), 2.88–2.83 (m, 2H), 2.02–1.96 (m, 2H), 1.73–1.66 (m, 2 H), 1.54 (br s, 1H). HRMS (M−H) calcd for C18H20FN4O4: 375.1469. found: 375.1472. Anal cald for C18H21FN4O4: C, 57.44; H, 5.62; N, 14.88. Found: C, 57.19; H, 5.55; N, 14.82.

reactant | 4-fluorobenzylamine | 1.25 mmol, 156 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 5-hydroxy-1-methyl-6-oxo-2-[4-(2,2,2-trifluoroacetoxy)piperidin-1-yl]-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester | 0.254 mmol, 100 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)N1CCC(CC1)OC(C(F)(F)F)=O | C15H18F3N3O6
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-2-(4-hydroxy-1-piperidinyl)-1-methyl-6-oxo-4-pyrimidinecarboxamide | 46 mg, 48% | FC1=CC=C(C=C1)CNC(=O)C=1N=C(N(C(C1O)=O)C)N1CCC(CC1)O | C18H21FN4O4
